US08044069B2
tert-butyl 1-(3-(trifluoromethyl)benzyl)piperidin-4-ylcarbamate
To a solution of tert-butyl piperidin-4-ylcarbamate (0.15 g, 0.75 mmol) and 3-(trifluoromethyl)benzaldehyde (0.12 mL, 0.156 mmol) in dichloroethane (5 mL) was added sodium triacetoxyborohydride (0.24 g, 1.12 mmol) and a few drops of acetic acid, and the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was diluted with dichloroethane and washed with saturated aqueous NaHCO3 solution. The organic layer was separated, dried over MgSO4, and chromatographed on silica gel, eluting with 30% ethyl acetate/hexane to yield the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 7.58 (s, 1H), 7.45 (m, 3H), 4.41 (m, 1H), 3.50 (m, 2H), 3.50 (m, 1H), 2.77 (d, J=12.21 Hz, 2H), 2.11 (t, J=11.70 Hz, 2H), 1.91 (d, J=11.53 Hz, 2H), 1.41 (s, 9H), 1.34 (m, 2H); MS (DCI) m/z 359 (M+H)+.

reactant | tert-butyl piperidin-4-ylcarbamate | 0.75 mmol, 0.15 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 3-(trifluoromethyl)benzaldehyde | 0.156 mmol, 0.12 mL | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | sodium triacetoxyborohydride | 1.12 mmol, 0.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | tert-butyl 1-(3-(trifluoromethyl)benzyl)piperidin-4-ylcarbamate | FC(C=1C=C(CN2CCC(CC2)NC(OC(C)(C)C)=O)C=CC1)(F)F | C18H25F3N2O2
